US05081260
Preparation of 3-(2-Oxo-1-Pyrrolidinyl)-Propyltrimethoxysilane
To a 500 ml volume glass flask equipped with a stirrer, a reflux condenser, a thermometer and a dropping funnel, there were added 125.2 g (1.0 mol) of 1-allyl-2-oxopyrrolidine and 0.5 g of 4% isopropyl alcohol solution of H2PtCl6. Trimethoxysilane (122.2 g; 1.0 mol) was dropwise added through the dropping funnel at a temperature ranging from 100° to 110° C. over 2 hours and the reaction mixture was allowed to stand at 100° C. for 30 minutes. The reaction solution was distilled to give 183.8 g of a compound having a boiling point of 123° to 125° C./2 mmHg in an yield of 74.3%.

reactant | 1-allyl-2-oxopyrrolidine | 1.0 mol, 125.2 g | C(C=C)N1C(CCC1)=O | C7H11NO
reactant | Trimethoxysilane | 1.0 mol, 122.2 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | isopropyl alcohol | 0.5 g | C(C)(C)O | C3H8O
product | 3-(2-Oxo-1-Pyrrolidinyl)-Propyltrimethoxysilane | 183.8 g, yield of 74.3% | O=C1N(CCC1)CCC[Si](OC)(OC)OC | C10H21NO4Si
